* C:\Users\kound\OneDrive\Documents\LTspice\3055.asc
V1 N001 N018 24
V2 0 N019 SINE(0 1 1)
Q1 N015 N021 N008 0 BC557B
C1 N019 N021 220n V=16 Irms=0 Rser=11 Lser=0
R1 0 N021 15000
Q2 N018 N016 N008 0 BC557B
D1 0 N004 BZX84C12L
R3 N004 N008 3300
R4 N015 N018 1000
Q3 N007 N015 N018 0 BC547B
Q4 N002 N009 N007 0 BC547B
C2 N007 N015 220p
R5 N001 N005 1500
R6 N002 N005 4700
R7 N002 N009 3300
R§2200 N007 N009 2200
R8 N003 N002 100
Q5 N001 N003 N006 0 BC547B
R9 N006 N012 1000
R10 N011 N007 100
Q6 N014 N011 N020 0 BC557B
R11 N012 N020 10 pwr=0.5
R12 N014 N018 1000
Q7 N001 N006 N010 0 2N3055
Q8 N017 N014 N018 0 2N3055
R13 N010 N012 200 pwr=5
R14 N012 N017 200 pwr=5
R15 N012 N016 15000
C3 P001 N016 47µ
R16 0 P001 470
C4 N005 N012 47µ
R17 0 N013 200 pwr=0.5
C5 N013 N012 100n
R18 N001 N004 2200
.model D D
.lib C:\Users\kound\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\kound\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
